US09290519B2
Preparation of 8-bromo-N-(o-tolyl)-1,2,3,4-tetrahydronaphthalen-1-amine
To a stirred solution of 57.1 g (533 mmol) of 2-methylaniline in 300 ml of toluene 25.3 g (133 mmol) of TiCl4 was added dropwise for 30 min at room temperature in argon atmosphere. The resulting mixture was stirred for 30 min at 90° C. followed by an addition of 30.0 g (133.0 mmol) 8-bromo-3,4-dihydronaphthalen-1(2H)-one. This mixture was stirred for 10 min at 90° C., poured into 500 ml of water, and the product was extracted with 3×200 ml of ethyl acetate. The combined organic extract was dried over Na2SO4 and evaporated to dryness. The residue was re-crystallized from 50 ml of ethyl acetate. The obtained solid was dissolved in 600 ml of methanol, 15.4 g (244 mmol) of NaBH3CN and 5 ml of acetic acid were added in argon atmosphere. The resulting mixture was refluxed for 3 h, then cooled to room temperature, and evaporated to dryness. The residue was diluted with 500 ml of water, and crude product was extracted with 3×200 ml of ethyl acetate. The combined organic extract was dried over Na2SO4 and evaporated to dryness. The residue was re-crystallized from 400 ml of methanol. Yield 33.2 g (79%) of a yellow crystalline powder. Anal. Calc. for C17H18BrN: C, 64.57; H, 5.74; N, 4.43. Found: C, 64.69; H, 5.82; N, 4.55. 1H NMR (CDCl3): δ 7.45 (m, 1H, 7-H in tetrahydronaphtalene); 7.19 (m, 1H, 6-H in tetrahydronaphtalene); 7.08-7.14 (m, 3H, 5-H in tetrahydronaphtalene and 3,5-H in 2-methylphenyl); 6.86 (m, 1H, 6-H in 2-methylphenyl); 6.68 (m, 1H, 4-H in 2-methylphenyl); 4.78 (m, 1H, 4-H in 2-methylphenyl); 3.51 (br.s, 1H, NH); 2.86-2.92 (m, 1H, 4- or 4′-H in tetrahydronaphtalene); 2.72-2.81 (m, 1H, 4′- or 4-H in tetrahydronaphtalene); 2.30-2.34 (m, 1H, 3- or 3′-H in tetrahydronaphtalene); 2.06 (s, 3H, CH3 in 2-methylphenyl); 1.85-1.97 (m, 1H, 3′- or 3-H in tetrahydronaphtalene); 1.77-1.81 (m, 1H, 2- or 2′-H in tetrahydronaphtalene); 1.59-1.67 (m, 1H, 2′- or 2-H in tetrahydronaphtalene).

reactant | 2-methylaniline | 533 mmol, 57.1 g | CC1=C(N)C=CC=C1 | C7H9N
reactant | toluene | 133 mmol, 300 ml, 25.3 g | C1(=CC=CC=C1)C | C7H8
reactant | 8-bromo-3,4-dihydronaphthalen-1(2H)-one | 133.0 mmol, 30.0 g | BrC=1C=CC=C2CCCC(C12)=O | C10H9BrO
reactant | NaBH3CN | 244 mmol, 15.4 g | [BH3-]C#N.[Na+]
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | 8-bromo-N-(o-tolyl)-1,2,3,4-tetrahydronaphthalen-1-amine | BrC=1C=CC=C2CCCC(C12)NC1=C(C=CC=C1)C | C17H18BrN
